US09216996B2
1-(2,2-dimethoxyethyl)-5-methoxy-6-(methoxycarbonyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid (1-A, 0.315 g, 1.00 mmol), was suspended in acetonitrile (4 ml) and treated with N,N-diisopropylethylamine (DIPEA) (0.348 mL, 2.00 mmol), (R)-1-(2,4-difluorophenyl)ethanamine HCl salt (0.213 mg, 1.10 mmol) and HATU (0.418 g, 1.10 mmol). The reaction mixture was stirred for 1 hour and partitioned between dichloromethane and HCl (10% aq). The organic layer was separated and washed sodium bicarbonate (1M aq), dried over sodium sulfate, filtered and concentrated to afford crude (R)-methyl 5-(1-(2,4-difluorophenyl)ethylcarbamoyl)-1-(2,2-dimethoxyethyl)-3-methoxy-4-oxo-1,4-dihydropyridine-2-carboxylate which was used without purification in the next step. LCMS-ESI+ (m/z): [M+H]+ calculated for C21H25F2N2O7: 455.16; found: 455.1.

reactant | 1-(2,2-dimethoxyethyl)-5-methoxy-6-(methoxycarbonyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid | 1.00 mmol, 0.315 g | COC(CN1C=C(C(C(=C1C(=O)OC)OC)=O)C(=O)O)OC | C13H17NO8
reactant | N,N-diisopropylethylamine | 2.00 mmol, 0.348 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-1-(2,4-difluorophenyl)ethanamine HCl salt | 1.10 mmol, 0.213 mg | Cl.FC1=C(C=CC(=C1)F)[C@@H](C)N
reactant | HATU | 1.10 mmol, 0.418 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | (R)-methyl 5-(1-(2,4-difluorophenyl)ethylcarbamoyl)-1-(2,2-dimethoxyethyl)-3-methoxy-4-oxo-1,4-dihydropyridine-2-carboxylate | FC1=C(C=CC(=C1)F)[C@@H](C)NC(=O)C=1C(C(=C(N(C1)CC(OC)OC)C(=O)OC)OC)=O | C21H24F2N2O7
